US09399639B2
(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-aminoacetate hydrochloride
The title compound was prepared according to the procedure as described in Example 14 Step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.1 g, 0.2 mmol) in DMF (0.9 mL), KOH (23 mg, 0.4 mmol), a solution of chloromethyl 2-((tert-butoxycarbonyl)amino)acetate (46 mg, 0.2 mmol) in DMF (100 mL). The title compound was purified by a silica gel column chromatography (PE/EtOAc (v/v)=4/1 to 3/1) and was obtained as a white solid (46 mg, 33.3%). The title compound was characterized by

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.2 mmol, 0.1 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 0.4 mmol, 23 mg | [OH-].[K+]
reactant | chloromethyl 2-((tert-butoxycarbonyl)amino)acetate | 0.2 mmol, 46 mg | C(C)(C)(C)OC(=O)NCC(=O)OCCl | C8H14ClNO4
solvent | DMF | 0.9 mL | CN(C)C=O | C3H7NO
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | (5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)methyl 2-aminoacetate hydrochloride | Cl.NCC(=O)OCN1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O | InChI=1S/C26H23ClF2N4O5S.ClH/c1-2-9-39(36,37)32-21-8-7-20(28)23(24(21)29)25(35)19-13-33(14-38-22(34)11-30)26-18(19)10-16(12-31-26)15-3-5-17(27)6-4-15;/h3-8,10,12-13,32H,2,9,11,14,30H2,1H3;1H
